US06348474B1
Ethyl 2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)-1H-thieno[2,3-d]imidazol-5-carboxylate
2.68 M Sodium ethylate was dissolved in ethanol (50 ml) and a solution (25 ml) of ethyl thioglycolate in ethanol was added. Thereto was added a solution (150 ml) of 4-bromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol-5-carboxaldehyde (3.16 g) in ethanol and the mixture was stirred at 80° C. for 2 hr. The solvent was evaporated under reduced pressure and water was added. The mixture was extracted twice with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was obtained by silica gel column chromatograhy (hexane/ethyl acetate=9/1). Hexane was added to the purified product and crystals were collected by filtration to give the objective compound (765 mg) as pale-brown crystals.

reactant | Sodium ethylate | 2.68 M | CC[O-].[Na+]
reactant | ethyl thioglycolate | 25 ml | C(CS)(=O)OCC | C4H8O2S
reactant | 4-bromo-2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)imidazol-5-carboxaldehyde | 150 ml, 3.16 g | BrC=1N=C(N(C1C=O)COCC[Si](C)(C)C)C | C11H19BrN2O2Si
reactant | Hexane | CCCCCC | C6H14
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 2-methyl-1-(2-(trimethylsilyl)ethoxymethyl)-1H-thieno[2,3-d]imidazol-5-carboxylate | 765 mg | CC=1N(C2=C(N1)SC(=C2)C(=O)OCC)COCC[Si](C)(C)C | C15H24N2O3SSi
